Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of sleep apnea, reflux who presented with bright red
blood per rectum after recent colonoscopy.  He describes that on
___ he had a colonoscopy with a polyp removed.  The
gastroenterologist noted some bleeding at the time and had to
place a clip.  He was in his usual state of health until 
___
evening at 7 ___ after he ate dinner.  He had an upset stomach 
and
then had a bowel movement and noticed a small amount of blood. 
He subsequently had 4 more bowel movements each with an
increasing amount of blood until he began to feel lightheaded. 
He presented to the ED where he continued to have bowel 
movements
with copious amounts of blood.  He vomited twice in the ED.

According to the ICU he was transfused 2 units of blood.  He
underwent prep this morning and a colonoscopy which demonstrated
hyperpigmented area around the site of the polypectomy.  This 
was
treated with electrocautery and 2 additional clips.  Hemostasis
was achieved.  He has since had multiple bowel movements without
blood.

He is not on aspirin.  He notes that sometime ago he had some
oozing with phlebotomy.  After discussing this with his doctor,
he decided to stop daily aspirin.  For bleeding other than the
phlebotomy incident noted in the HPI no family history of easy
bruising or bleeding no family history of easy bruising or
bleeding
 
Past Medical History:
Sleep apnea
Reflux
No history of easy bruising or bleeding.
 
Social History:
___
Family History:
No family history of easy bruising or bleeding
 
Physical Exam:
VITALS: Afebrile and vital signs stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 09:40PM   ___ PTT-23.4* ___
___ 09:40PM   NEUTS-76.3* LYMPHS-14.3* MONOS-6.7 EOS-1.8 
BASOS-0.3 IM ___ AbsNeut-9.24* AbsLymp-1.73 AbsMono-0.81* 
AbsEos-0.22 AbsBaso-0.04
___ 09:40PM   WBC-12.1* RBC-3.70* HGB-11.9* HCT-33.5* 
MCV-91 MCH-32.2* MCHC-35.5 RDW-11.9 RDWSD-39.2
___ 09:40PM   CALCIUM-9.5 PHOSPHATE-3.7 MAGNESIUM-1.9
___ 09:40PM   GLUCOSE-165* UREA N-20 CREAT-1.1 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-27 ANION GAP-13
___ 09:50PM   LACTATE-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with hx of OSA on CPAP, and GI 
reflux who presented to ___ ED on ___ with onset of bright 
red blood per rectum. He had a screening colonoscopy two days 
prior with polypectomy, some intra-procedure bleeding and 
subsequent clip placement.

He was given one unit of PRBCs for brisk bowel movements w/ 
lower GI bleeding in ED. Also vomiting but without blood. VS in 
ED Temp: 96.6 HR: 86 BP: 113/66 Resp: 16 O(2)Sat: 100 Normal. He 
was taken to ICU and had two more units of PRBCs transfused. He 
underwent colonoscopy prep and on ___ had colonoscopy with 
visualized hyperpigmented area around site of polypectomy. Had 
electrocautery and two additional clips placed with good 
hemostasis. Initial hemoglobin upon arrival to ED was 11 and on 
day of colonoscopy had decreased to 8.8 After this, had no 
further bleeding with bowel movements. Diet advanced until 
tolerating regular and felt back to normal.

He was discharged to home on ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 300 mg PO BID 
2. Simvastatin 40 mg PO DAILY 

 
Discharge Medications:
1.  Ranitidine 300 mg PO BID  
2.  Simvastatin 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with bright red bleeding from 
your rectum as a complication of your recent colonoscopy with 
polypectomy. You underwent another colonoscopy to stop the 
bleeding.

It was a pleasure taking care of you!

Sincerely, your ___ team
 
Followup Instructions:
___